US05250517
50 mg of (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide were dissolved in 3 ml of methanol and hydrogenated at room temperature for 3 hours at normal pressure in the presence of 7 mg of palladium-on-carbon. Thereafter, the catalyst was filtered off and rinsed with methanol. The alcoholic solution was then evaporated under reduced pressure, to obtain (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropylhexyl]imidazole-4-propionamide as a colorless foam. MS: 393 (M+H)+.

reactant | (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 50 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H38N4O2
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium-on-carbon | 7 mg | [Pd] | Pd
product | (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropylhexyl]imidazole-4-propionamide | N[C@H](C(=O)N[C@H]([C@H](C[C@H](CC)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H40N4O2
